US06417366B2
To a dry 1-L three-necked round-bottom flask equipped with a nitrogen inlet and overhead stirrer was charged 3-(3-quinolyl)-2-propyn-1-ol (15.81 g, 86.39 mmol), di-tert-butyl dicarbonate (22.48 g, 103 mmol, 1.19 equiv), n-tetrabutyl ammonium hydrogen sulfate (0.86 g, 2.54 mmol, 0.029 equiv) and methylene chloride (300 mL). The resulting suspension was mechanically stirred while a 25% w/w aqueous NaOH solution (38 g) was added in over a period of 5 minutes. The biphasic mixture which resulted was stirred for 4 hours after which time the reaction was found to be complete by HPLC and TLC. The mixture was diluted with water (200 mL) and methylene chloride (100 mL). After stirring for 10 minutes and settling for 15 minutes the layers were separated. The organic layer was washed with water (1×200 mL) and 20% aq., NaCl (1×200 mL). The organic was then stirred with 15 g of sodium sulfate, filtered and then stripped to an oil under reduced pressure. The residual oil was taken up in isopropyl acetate/hexane (1:1, 100 mL) and passed through a small pad of silica gel (8 g). The pad was rinsed with the same eluent (100 mL). The combined filtrates were concentrated under reduced pressure and rigorously dried in a vacuum oven to yield the 3-(3-quinolyl)-2-propyn-1 ol t-butyl carbonate as a light orange-yellow colored oil: 24.50 g, 100%.

reactant | 3-(3-quinolyl)-2-propyn-1-ol | 86.39 mmol, 15.81 g | N1=CC(=CC2=CC=CC=C12)C#CCO | C12H9NO
reactant | di-tert-butyl dicarbonate | 103 mmol, 22.48 g, 1.19 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 38 g | [OH-].[Na+]
solvent | water | 200 mL | O | H2O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-quinolyl)-2-propyn-1 ol t-butyl carbonate | N1=CC(=CC2=CC=CC=C12)C#CCO.C(C)(C)(C)OC([O-])=O | InChI=1S/C12H9NO.C5H10O3/c14-7-3-4-10-8-11-5-1-2-6-12(11)13-9-10;1-5(2,3)8-4(6)7/h1-2,5-6,8-9,14H,7H2;1-3H3,(H,6,7)/p-1
